** Name: SimpleOpAmp80

.MACRO SimpleOpAmp80 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 outInputVoltageBiasXXnXX1 outInputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=1e-6 W=16e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=121e-6
mDiodeTransistorNmos3 outVoltageBiasXXnXX2 outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=16e-6
mDiodeTransistorPmos4 ibias ibias outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=1e-6 W=13e-6
mDiodeTransistorPmos5 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=10e-6
mNormalTransistorNmos6 out outVoltageBiasXXnXX2 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=1e-6 W=101e-6
mNormalTransistorNmos7 FirstStageYinnerTransistorStack1Load2 FirstStageYout1 sourceNmos sourceNmos nmos4 L=1e-6 W=150e-6
mNormalTransistorNmos8 FirstStageYinnerTransistorStack2Load2 FirstStageYout1 sourceNmos sourceNmos nmos4 L=1e-6 W=150e-6
mNormalTransistorNmos9 FirstStageYout1 outVoltageBiasXXnXX2 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 nmos4 L=1e-6 W=101e-6
mNormalTransistorNmos10 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=6e-6 W=409e-6
mNormalTransistorNmos11 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=6e-6 W=409e-6
mNormalTransistorNmos12 FirstStageYsourceTransconductance outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=1e-6 W=121e-6
mNormalTransistorNmos13 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=16e-6
mNormalTransistorPmos14 out ibias FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=596e-6
mNormalTransistorPmos15 outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=53e-6
mNormalTransistorPmos16 outVoltageBiasXXnXX2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=384e-6
mNormalTransistorPmos17 FirstStageYout1 ibias FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=596e-6
mNormalTransistorPmos18 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=483e-6
mNormalTransistorPmos19 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=483e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp80

** Expected Performance Values: 
** Gain: 87 dB
** Power consumption: 7.20201 mW
** Area: 8318 (mu_m)^2
** Transit frequency: 33.9951 MHz
** Transit frequency with error factor: 33.9953 MHz
** Slew rate: 34.147 V/mu_s
** Phase margin: 78.4953°
** CMRR: 145 dB
** VoutMax: 4.04001 V
** VoutMin: 0.330001 V
** VcmMax: 5.17001 V
** VcmMin: 1.40001 V


** Expected Currents: 
** NormalTransistorPmos: -53.7349 muA
** NormalTransistorPmos: -387.199 muA
** NormalTransistorPmos: -285.83 muA
** NormalTransistorPmos: -489.702 muA
** NormalTransistorPmos: -285.83 muA
** NormalTransistorPmos: -489.702 muA
** NormalTransistorNmos: 285.831 muA
** NormalTransistorNmos: 285.83 muA
** NormalTransistorNmos: 285.831 muA
** NormalTransistorNmos: 285.83 muA
** NormalTransistorNmos: 407.742 muA
** DiodeTransistorNmos: 407.741 muA
** NormalTransistorNmos: 203.872 muA
** NormalTransistorNmos: 203.872 muA
** DiodeTransistorNmos: 53.7341 muA
** NormalTransistorNmos: 53.7331 muA
** DiodeTransistorNmos: 387.2 muA
** DiodeTransistorPmos: -9.99899 muA
** DiodeTransistorPmos: -9.99999 muA


** Expected Voltages: 
** ibias: 3.42701  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outInputVoltageBiasXXnXX1: 1.20801  V
** outSourceVoltageBiasXXnXX1: 0.604001  V
** outSourceVoltageBiasXXpXX1: 4.19901  V
** outVoltageBiasXXnXX2: 0.937001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack1Load2: 0.349001  V
** innerTransistorStack2Load2: 0.350001  V
** out1: 0.555001  V
** sourceGCC1: 4.15401  V
** sourceGCC2: 4.15401  V
** sourceTransconductance: 1.90701  V
** inner: 0.603001  V


.END