** Name: SimpleOpAmp92

.MACRO SimpleOpAmp92 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceTransconductance sourceTransconductance nmos4 L=2e-6 W=35e-6
mDiodeTransistorNmos2 ibias ibias sourceNmos sourceNmos nmos4 L=2e-6 W=6e-6
mDiodeTransistorPmos3 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=9e-6 W=13e-6
mDiodeTransistorPmos4 FirstStageYout1 FirstStageYout1 sourcePmos sourcePmos pmos4 L=1e-6 W=15e-6
mNormalTransistorNmos5 out outVoltageBiasXXnXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=2e-6 W=196e-6
mNormalTransistorNmos6 outVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=2e-6 W=15e-6
mNormalTransistorNmos7 FirstStageYsourceGCC2 in2 sourceTransconductance sourceTransconductance nmos4 L=1e-6 W=98e-6
mNormalTransistorNmos8 FirstStageYsourceGCC1 in1 sourceTransconductance sourceTransconductance nmos4 L=1e-6 W=98e-6
mNormalTransistorNmos9 sourceTransconductance ibias sourceNmos sourceNmos nmos4 L=2e-6 W=309e-6
mNormalTransistorNmos10 FirstStageYout1 outVoltageBiasXXnXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=2e-6 W=196e-6
mNormalTransistorPmos11 out FirstStageYout1 sourcePmos sourcePmos pmos4 L=1e-6 W=15e-6
mNormalTransistorPmos12 outVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=9e-6 W=72e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp92

** Expected Performance Values: 
** Gain: 53 dB
** Power consumption: 2.71201 mW
** Area: 2505 (mu_m)^2
** Transit frequency: 39.2921 MHz
** Transit frequency with error factor: 39.2919 MHz
** Slew rate: 50.3585 V/mu_s
** Phase margin: 79.6412°
** CMRR: 91 dB
** VoutMax: 4.16001 V
** VoutMin: 0.5 V
** VcmMax: 3.85001 V
** VcmMin: 0.75 V


** Expected Currents: 
** NormalTransistorNmos: 24.7331 muA
** NormalTransistorPmos: -134.342 muA
** NormalTransistorNmos: 186.655 muA
** NormalTransistorNmos: 186.655 muA
** DiodeTransistorPmos: -186.654 muA
** NormalTransistorPmos: -186.654 muA
** NormalTransistorNmos: 507.652 muA
** NormalTransistorNmos: 186.655 muA
** NormalTransistorNmos: 186.655 muA
** DiodeTransistorNmos: 134.343 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -24.7339 muA


** Expected Voltages: 
** ibias: 0.603001  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outVoltageBiasXXnXX1: 2.65001  V
** outVoltageBiasXXpXX0: 3.46201  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 1.94501  V
** out1: 3.59801  V
** sourceGCC1: 2.09501  V
** sourceGCC2: 2.09501  V


.END