** Name: SimpleOpAmp81

.MACRO SimpleOpAmp81 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=2e-6 W=8e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=10e-6
mDiodeTransistorNmos3 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 sourceNmos sourceNmos nmos4 L=3e-6 W=141e-6
mDiodeTransistorNmos4 FirstStageYout1 FirstStageYout1 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 nmos4 L=1e-6 W=141e-6
mDiodeTransistorPmos5 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=2e-6 W=188e-6
mDiodeTransistorPmos6 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=192e-6
mNormalTransistorNmos7 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=301e-6
mNormalTransistorNmos8 out FirstStageYout1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=1e-6 W=141e-6
mNormalTransistorNmos9 FirstStageYinnerStageBias outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=539e-6
mNormalTransistorNmos10 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack2Load2 sourceNmos sourceNmos nmos4 L=3e-6 W=141e-6
mNormalTransistorNmos11 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=3e-6 W=381e-6
mNormalTransistorNmos12 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=3e-6 W=381e-6
mNormalTransistorNmos13 FirstStageYsourceTransconductance ibias FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=2e-6 W=564e-6
mNormalTransistorPmos14 out inputVoltageBiasXXpXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=2e-6 W=295e-6
mNormalTransistorPmos15 FirstStageYout1 inputVoltageBiasXXpXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=2e-6 W=295e-6
mNormalTransistorPmos16 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=422e-6
mNormalTransistorPmos17 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=422e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp81

** Expected Performance Values: 
** Gain: 82 dB
** Power consumption: 7.98701 mW
** Area: 9886 (mu_m)^2
** Transit frequency: 53.5341 MHz
** Transit frequency with error factor: 53.534 MHz
** Slew rate: 45.1884 V/mu_s
** Phase margin: 64.1713°
** CMRR: 138 dB
** VoutMax: 3.65001 V
** VoutMin: 0.890001 V
** VcmMax: 4.99001 V
** VcmMin: 1.27001 V


** Expected Currents: 
** NormalTransistorNmos: 298.44 muA
** NormalTransistorPmos: -375.971 muA
** NormalTransistorPmos: -644.524 muA
** NormalTransistorPmos: -375.969 muA
** NormalTransistorPmos: -644.522 muA
** DiodeTransistorNmos: 375.972 muA
** NormalTransistorNmos: 375.971 muA
** NormalTransistorNmos: 375.97 muA
** DiodeTransistorNmos: 375.971 muA
** NormalTransistorNmos: 537.106 muA
** NormalTransistorNmos: 537.105 muA
** NormalTransistorNmos: 268.553 muA
** NormalTransistorNmos: 268.553 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -298.439 muA
** DiodeTransistorPmos: -298.438 muA


** Expected Voltages: 
** ibias: 1.13401  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 3.03601  V
** out: 2.5  V
** outSourceVoltageBiasXXnXX1: 0.558001  V
** outSourceVoltageBiasXXpXX1: 4.02101  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerStageBias: 0.579001  V
** innerTransistorStack1Load2: 0.710001  V
** innerTransistorStack2Load2: 0.711001  V
** out1: 1.29301  V
** sourceGCC1: 3.97601  V
** sourceGCC2: 3.97601  V
** sourceTransconductance: 1.93701  V


.END